US08198287B2
13.3 (+/−)10-Amino-1 0-methyl-2-pyrimidin-4-yl-7,8,9,10-tetrahydro-6H-pyrimido[1,2-a]azepin-4-one
A mixture of 23.9 mL (234.1 mmol) of thiophenol, 11.1 g (58.5 mmol) of tin (II) chloride and 24.5 mL (175.6 mmol) triethylamine in acetonitrile (300 mL) was stirred for 5 min at room temperature. 10-Azido-10-methyl-2-pyrimidin-4-yl-7,8,9,10-tetrahydro-6H-pyrimido[1,2-a]azepin-4-one residue diluted in 90 mL of acetonitrile was added to this solution and the mixture was stirred for 1 h. A solution of sodium hydroxide (1M) was added and the mixture extracted with dichloromethane. After an acid-basic work-up, the residue was chromatographed on silica gel eluting with a mixture of dichloromethane/methanol in the proportions 95/5 to afford 6.3 g (58%) of a yellow solid.

reactant | thiophenol | 234.1 mmol, 23.9 mL | C1(=CC=CC=C1)S | C6H6S
reactant | tin (II) chloride | 58.5 mmol, 11.1 g | [Sn](Cl)Cl
reactant | triethylamine | 175.6 mmol, 24.5 mL | C(C)N(CC)CC | C6H15N
reactant | 10-Azido-10-methyl-2-pyrimidin-4-yl-7,8,9,10-tetrahydro-6H-pyrimido[1,2-a]azepin-4-one | N(=[N+]=[N-])C1(C=2N(CCCC1)C(C=C(N2)C2=NC=NC=C2)=O)C | C14H15N7O
reactant | sodium hydroxide | 1M | [OH-].[Na+]
solvent | acetonitrile | 300 mL | C(C)#N | C2H3N
solvent | acetonitrile | 90 mL | C(C)#N | C2H3N
product | (+/−)10-Amino-1 0-methyl-2-pyrimidin-4-yl-7,8,9,10-tetrahydro-6H-pyrimido[1,2-a]azepin-4-one | 6.3 g, 58% | NC1(C=2N(CCCC1)C(C=C(N2)C2=NC=NC=C2)=O)C | C14H17N5O
